US07893056B2
4-(2,5-Dihydro-1H-pyrrol-1-yl)-5-fluoro-6-hydrazino-2-methylpyrimidine (142 mg, 0.68 mmol), (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid (242 mg, 0.81 mmol), and HOAt (110 mg, 0.81 mmol) were dissolved in 4 mL of DMF. NMM (370 μL, 3.4 mmol) was added, followed by EDC (155 mg, 0.81 mmol). When the starting materials were consumed, the reaction mixture was purified by RP-HPLC to provide ((2R)-2-(cyclopentylmethyl)-3-{2-[6-(2,5-dihydro-1H-pyrrol-1-yl)-5-fluoro-2-methyl-4-pyrimidinyl]hydrazino}-3-oxopropyl)(tetrahydro-2H-pyran-2-yloxy)formamide (140 mg, 55%).

reactant | 4-(2,5-Dihydro-1H-pyrrol-1-yl)-5-fluoro-6-hydrazino-2-methylpyrimidine | 0.68 mmol, 142 mg | N1(CC=CC1)C1=NC(=NC(=C1F)NN)C | C9H12FN5
reactant | (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid | 0.81 mmol, 242 mg | C1(CCCC1)C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O | C15H25NO5
reactant | HOAt | 0.81 mmol, 110 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 3.4 mmol, 370 μL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.81 mmol, 155 mg
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | ((2R)-2-(cyclopentylmethyl)-3-{2-[6-(2,5-dihydro-1H-pyrrol-1-yl)-5-fluoro-2-methyl-4-pyrimidinyl]hydrazino}-3-oxopropyl)(tetrahydro-2H-pyran-2-yloxy)formamide | 140 mg, 55% | C1(CCCC1)C[C@H](CN(C=O)OC1OCCCC1)C(=O)NNC1=NC(=NC(=C1F)N1CC=CC1)C | C24H35FN6O4
